US08334131B2
Arginine 38 mg.
, Methionine 7 mg., Histidine 9 mg., Phenylalanine 25 mg., Isoleucine 29 mg., Threonine 33 mg., Leucine 52 mg., Tryptophan 7 mg., Lysine 35 mg., Valine 32 mg.

reactant | Methionine | 7 mg | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | Histidine | 9 mg | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | Phenylalanine | 25 mg | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | Isoleucine | 29 mg | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | Threonine | 33 mg | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
reactant | Leucine | 52 mg | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | Tryptophan | 7 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | Lysine | 35 mg | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
reactant | Valine | 32 mg | N[C@@H](C(C)C)C(=O)O | C5H11NO2
product | Arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
